US07230001B1
1-(Diphenylmethyl)-3-(phthalimido)-azetidine
A mixture of 75 g (0.235 mol) of 1-(diphenylmethyl)-3-(methanesulphonyloxy)-azetidine, 47.1 g (0.254 mol) of potassium phthalimide and 800 ml of dimethylformamide was refluxed for 1½ hours, during which time a fine precipitate gradually settled out. After cooling the precipitate was filtered off and the solvent was evaporated off in vacuo, finally under a high vacuum. The colourless residue crystallised when left to stand. Yield: 78.0 g (90% of theoretical). Rf=0.95 (El N).

reactant | 1-(diphenylmethyl)-3-(methanesulphonyloxy)-azetidine | 0.235 mol, 75 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | potassium phthalimide | 0.254 mol, 47.1 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 1-(Diphenylmethyl)-3-(phthalimido)-azetidine | C1(=CC=CC=C1)C(N1CC(C1)N1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2 | C24H20N2O2
